US04009170
A mixture of 1-ethoxy-3,4-dihydroisoquinoline (1.0 g.), hydrazine monohydrochloride (0.4 g.) and absolute ethanol (15 ml.) was heated under reflux (for 40 min.). The solution was cooled, filtered and concentrated and the residue was recrystallized from ethanol-ether, affording 1-hydrazino-3,4-dihydroisoquinoline hydrochloride (0.9 g., m.p. 205°-207° C.). C. A mixture of 1-hydrazino-3,4-dihydroisoquinoline (8.0 g.), acetaldehyde (20 ml.) and ethanol (20 ml.) was allowed to stand at room temperature (for 45 min). Ethanolic sulfuric acid was added until the solution was distinctly acidic. Ether was added. The resulting oil crystallized and the crystals were recrystallized from ethanol-ether, affording 1-(2-ethylidenehydrazino)-3,4-dihydroisoquinoline (I: X=CH3, X'=Y=Y'=Z=Z'=H) sulfate in two crops (8.3 g., m.p. 152°-154° C.; 0.5 g., m.p. 152°-155° C.).

reactant | 1-hydrazino-3,4-dihydroisoquinoline | 8.0 g | N(N)C1=NCCC2=CC=CC=C12 | C9H11N3
reactant | acetaldehyde | 20 ml | C(C)=O | C2H4O
reactant | ethanol | 20 ml | C(C)O | C2H6O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
solvent | Ether | CCOCC | C4H10O
product | 1-(2-ethylidenehydrazino)-3,4-dihydroisoquinoline | C(C)=NNC1=NCCC2=CC=CC=C12 | C11H13N3
